US05914328
73a 5-methyl-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine
A 270 mg (1 mmol) sample of 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine, from Example 28 above, was dissolved in 10 mL of THF, 3.25 mg of Ni(dppp)Cl was added, and the mixture was cooled to 0° C. To this solution was added 0.47 mL of methylmagnesium bromide, then the mixture was stirred at reflux for 20 hours. Another 0.2 mL of methylmagnesium bromide was added, and the reaction mixture was stirred for 2 hours. The reaction was quenched by addition of NH4Cl solution, and the mixture was evaporated to dryness. The residue was partitioned between H2O and CHCl3, and the organic extract was dried and concentrated.. The residue was purified by chromatography on silica gel, eluting with 5:1 chloroform:methanol, to give 120 mg of the title compound. MS (DCI/NH3) m/e: 207 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.13 (d, J=2.7 Hz, 1H), 8.05 (s, 1H), 7.03 (m, 1H), 4.04-3.89 (m, 2H), 2.66 (m, 1H), 2.48 (s, 3H), 2.32 (s, 3H), 2.35-2.26 (m, 1H), 2.09-1.98 (m, 1H), 1.92-1.68 (m, 3H).

reactant | 5-bromo-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)-pyridine | BrC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C11H15BrN2O
reactant | methylmagnesium bromide | 0.47 mL | C[Mg]Br
reactant | methylmagnesium bromide | 0.2 mL | C[Mg]Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-methyl-3-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyridine | 120 mg | CC=1C=C(C=NC1)OC[C@H]1N(CCC1)C | C12H18N2O
